US09233979B2
Step 2: tert-butyl(4,6-dichloro-5-formylpyridin-2-yl)carbamate
To a stirred solution of diisopropylethylamine (7.4 mL, 53.2 mmol) in THF was added n-BuLi (18.8 mL, 47.1 mmol, 2.5 M solution in hexanes) at −78° C., and allowed to stir at 0° C. of 30 minutes. The reaction mixture was again cooled to −78° C. and a solution compound tert-butyl(4,6-dichloropyridin-2-yl)carbamate (4.0 g, 15.2 mmol) in THF (20.0 mL) was added dropwise and stirred for 1 h at the same temperature. After 1 h, DMF (8.08 g, 36.7 mmol) was added at the same temperature and stirred for 30 minutes. After confirming the completion of starting material by TLC, the reaction mixture was quenched with saturated ammonium chloride solution extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure to get crude product which was purified by column chromatography (hexanes:ethyl acetate=4:1) to afford product. 1H NMR (ppm, 400 MHz, DMSO-d6): δ 10.95 (s, 1H), 10.22 (s, 1H), 7.95 (s, 1H), 1.47 (s, 9H).

reactant | diisopropylethylamine | 53.2 mmol, 7.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | n-BuLi | 47.1 mmol, 2.5 M, 18.8 mL | [Li]CCCC
reactant | tert-butyl(4,6-dichloropyridin-2-yl)carbamate | 15.2 mmol, 4.0 g | C(C)(C)(C)OC(NC1=NC(=CC(=C1)Cl)Cl)=O | C10H12Cl2N2O2
reactant | DMF | 36.7 mmol, 8.08 g | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
product | tert-butyl(4,6-dichloro-5-formylpyridin-2-yl)carbamate | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)Cl)C=O)Cl)=O | C11H12Cl2N2O3
